US06166064
3,5,6,7-Tetrahydro-2H-s-indacen-1-one
Concentrated sulfuric acid (550 mL) was added dropwise, with stirring over a time period of 2 hours to 137 grams of 3-chloro-1-indan-5-yl-propan-1-one. The resulting thick black solution was heated to 90° C. until hydrogen chloride evolution ceased (usually 1-4 hours). The mixture was then cooled to room temperature and poured onto 5 kg of ice. The resulting slurry was stirred overnight and filtered. The solid was washed with water until the water ran clear through the filter. The tan solid was then dried in vacuo and recrystallized from hexane to afford 90 grams of the title compound, m.p. 72.4-74.8° C.

reactant | 3-chloro-1-indan-5-yl-propan-1-one | ClCCC(=O)C=1C=C2CCCC2=CC1 | C12H13ClO
reactant | hydrogen chloride | Cl | ClH
solvent | sulfuric acid | 550 mL | S(O)(O)(=O)=O | H2O4S
product | 3,5,6,7-Tetrahydro-2H-s-indacen-1-one | 90 grams | C1(CCC2=CC=3CCCC3C=C12)=O | C12H12O
